US04772631
A mixture of N-benzyl-2-p-hydroxyphenoxyethylamine hydrochloride (5.6 g), 1,2-epoxy-3-o-fluorophenoxypropane (3.6 g) and anhydrous potassium carbonate (2.7 g) was heated under reflux in propan-2-ol (100 ml) for 24 hours. The reaction mixture was cooled, the solid removed by filtration and the solvent evaporated from the filtrate. The residual oil was purified by chromatography on silica eluting with 1% v/v methanol in dichloromethane to give N-benzyl-N-(2-p-hydroxyphenoxyethyl)-3-o-fluorophenoxy-2-hydroxypropylamine as a colourless oil; NMR: 2.27-3.15 (m, 4H, CH2NCH2), 3.8 (dd, 2H, NCH2Ph), 3.9-4.2 (m, 5H, OCH2.CHOH, o-F-Ph.OCH2), 6.7 (s, 4 aromatic H), 6.8-7.1 (m, 4 aromatic H), 7.3 (m, 5H, CH2Ph).

reactant | N-benzyl-2-p-hydroxyphenoxyethylamine hydrochloride | 5.6 g | Cl.C(C1=CC=CC=C1)NCCOC1=CC=C(C=C1)O
reactant | 1,2-epoxy-3-o-fluorophenoxypropane | 3.6 g | O1CC1COC1=C(C=CC=C1)F | C9H9FO2
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | propan-2-ol | 100 ml | CC(C)O | C3H8O
product | N-benzyl-N-(2-p-hydroxyphenoxyethyl)-3-o-fluorophenoxy-2-hydroxypropylamine | C(C1=CC=CC=C1)N(CCOC1=CC=C(C=C1)O)CC(COC1=C(C=CC=C1)F)O | C24H26FNO4
